data/mechanism_extracts/Angew/10.1002_anie.201807683.json
{"doi": "10.1002_anie.201807683", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electrochemical dehydrogenative annulation of N-allyl amides with 1,3-dicarbonyl compounds to form pyrrolidines [(4+1)] or tetrahydropyridines [(4+2)] using a phenothiazine organic redox mediator", "mechanism_family": ["mediator_anodic", "radical_anodic", "radical_polar_crossover", "electrocatalysis_outer_sphere"], "electrochemical_role": "Anodic oxidation of phenothiazine (3, E_p/2 = 0.52 V vs SCE) to its radical cation 3·+, which serves as an outer-sphere SET mediator that oxidizes the deprotonated 1,3-dicarbonyl anion to a C-radical; cathode reduces H2O to H2 and HO- (which deprotonates the 1,3-dicarbonyl)", "key_intermediates": [{"name": "phenothiazine radical cation (3·+) - redox mediator", "smiles": "C1=CC=C2C(=C1)NC3=CC=CC=C3[S+]2", "role": "reactive"}, {"name": "1,3-dicarbonyl enolate anion (II)", "smiles": null, "role": "reactive"}, {"name": "alpha-carbonyl C-radical (III) from dicarbonyl", "smiles": null, "role": "reactive"}, {"name": "tertiary C-radical V after addition to N-allyl amide alkene", "smiles": null, "role": "reactive"}, {"name": "amide-oxygen-cyclized oxocarbenium/iminium intermediate VI", "smiles": null, "role": "transient"}, {"name": "open-chain amino-diester 62 (isolated intermediate to pyrrolidine 4)", "smiles": null, "role": "stoichiometric_intermediate"}, {"name": "cyclic carbamate 59 from Boc-substrate trapping", "smiles": null, "role": "stoichiometric_intermediate"}], "electron_flow": "Anode oxidizes phenothiazine 3 to radical cation 3·+; cathode reduces H2O to H2 + HO-, which deprotonates the 1,3-dicarbonyl to enolate II; 3·+ oxidizes II by SET to C-radical III, which adds across the N-allyl amide alkene to give tertiary radical V; V is further oxidized by 3·+ to a cation that is intramolecularly trapped by the amide carbonyl oxygen, leading after workup to the pyrrolidine (via open-chain 62) or tetrahydropyridine product.", "rate_determining_step": null, "probe_reagents": [{"name": "crossover experiment with amides 56 and 57", "smiles": null, "purpose": "crossover", "observation": "Only non-crossed products 14 and 37 formed; no crossover products detected, indicating intramolecular acyl migration"}, {"name": "N-Boc analogue 58", "smiles": null, "purpose": "intermediate_trap", "observation": "Cyclic carbamate 59 isolated in 45% yield, supporting trapping of cationic intermediate by amide/carbamate carbonyl oxygen"}, {"name": "H2-18O", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "[18O]-11 obtained in 59% yield with 90% 18O incorporation; LiAlH4 reduction gave diol 61 with no 18O — confirms acyl oxygen of product originates from H2O"}, {"name": "isolation of open-chain intermediate 62", "smiles": null, "purpose": "intermediate_trap", "observation": "Run in H2O-free tBuOMe/MeOH gave uncyclized amine 62 (53%); resubjection to standard conditions cyclized to pyrrolidine 4 (42%), confirming 62 as on-cycle intermediate"}, {"name": "cyclic voltammetry of 2, 3, and N-allyl amide IV", "smiles": null, "purpose": "redox_probe", "observation": "E_p/2: 3 = 0.52 V, anion II = 0.31 V, dicarbonyl 2 > 2.0 V, alkene IV = 1.74 V (vs SCE); mediator selectively oxidizes the enolate"}], "evidence_types_used": ["crossover", "H/D_labeling", "isolation_of_intermediate", "stoichiometric_intermediate", "cyclic_voltammetry", "intermediate_trap_other"], "evidence_strength": "strong", "notes": "Alternative cyclization onto the 1,3-dicarbonyl carbonyl oxygen (instead of amide carbonyl) was considered but ruled out by the 18O-labelling result and the Boc-trapping experiment, which show the product acyl-O derives from water via amide-O attack on cation VI, followed by hydrolysis. Phenothiazine is highlighted as a novel organic redox catalyst operative in aqueous solution, avoiding stoichiometric oxidants and transition metals."}
